US04245088
In dichloromethane (7 ml) was suspended 7β-amino-3-(3-carboxypropionyloxy)methyl-3-cephem-4-carboxylic acid (660 mg), followed by the addition of N,N-dimethylacetamide (0.7 ml). Then, under ice-cooling and stirring, a solution of (1H-tetrazol-1-yl)acetyl chloride (294 mg) in dichloromethane (2 ml) was added. The mixture was stirred at room temperature for 1 hour, after which time it was poured in an aqueous solution of sodium hydrogen carbonate and separated. The water layer was taken, washed with dichloromethane, made acidic with phosphoric acid and extracted with ethyl acetate. The extract was re-extracted with aqueous sodium hydrogen carbonate solution to bring the desired compound into the aqueous phase. This aqueous solution was purified by column-chromatography on Sephadex LH-20. The fractions containing the dominant product were pooled and lyophilized. The procedure provided 7β-[2-(1H-tetrazol-1-yl)acetamido]-3-(3-carboxypropionyloxy)methyl-3-cephem-4-carboxylic acid disodium salt.

reactant | 7β-amino-3-(3-carboxypropionyloxy)methyl-3-cephem-4-carboxylic acid | 660 mg | N[C@H]1[C@@H]2N(C(=C(CS2)COC(CCC(=O)O)=O)C(=O)O)C1=O | C12H14N2O7S
reactant | N,N-dimethylacetamide | 0.7 ml | CN(C(C)=O)C | C4H9NO
reactant | (1H-tetrazol-1-yl)acetyl chloride | 294 mg | N1(N=NN=C1)CC(=O)Cl | C3H3ClN4O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 7β-[2-(1H-tetrazol-1-yl)acetamido]-3-(3-carboxypropionyloxy)methyl-3-cephem-4-carboxylic acid disodium salt | [Na+].[Na+].N1(N=NN=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CCC(=O)O)=O)C(=O)[O-])C1=O.N1(N=NN=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CCC(=O)O)=O)C(=O)[O-])C1=O | InChI=1S/2C15H16N6O8S.2Na/c2*22-8(3-20-6-16-18-19-20)17-11-13(26)21-12(15(27)28)7(5-30-14(11)21)4-29-10(25)2-1-9(23)24;;/h2*6,11,14H,1-5H2,(H,17,22)(H,23,24)(H,27,28);;/q;;2*+1/p-2/t2*11-,14-;;/m11../s1
